US08278312B2
3.2 120 mg of tert-butyl N′-{2-[3-(2,6-dichlorophenylamino)imidazo[1,2-a]-pyrimidin-2-yl]-3,5-dimethoxybenzoyl}hydrazinecarboxylate are stirred at RT for 1 hour in 3 ml of 4 N HCl in dioxane. The reaction mixture is evaporated, the residue is triturated with a little ethyl acetate and filtered off with suction, giving 90 mg (84%) of 2-[3-(2,6-dichlorophenylamino)imidazo-[1,2-a]pyrimidin-2-yl]-3,5-dimethoxybenzohydrazide as hydrochloride; MS-FAB (M+H+)=474.3; Rf (polar method): 1.33 min.

reactant | tert-butyl N′-{2-[3-(2,6-dichlorophenylamino)imidazo[1,2-a]-pyrimidin-2-yl]-3,5-dimethoxybenzoyl}hydrazinecarboxylate | ClC1=C(C(=CC=C1)Cl)NC1=C(N=C2N1C=CC=N2)C2=C(C(=O)NNC(=O)OC(C)(C)C)C=C(C=C2OC)OC | C26H26Cl2N6O5
solvent | HCl | 4 N, 3 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[3-(2,6-dichlorophenylamino)imidazo-[1,2-a]pyrimidin-2-yl]-3,5-dimethoxybenzohydrazide | 90 mg, 84% | ClC1=C(C(=CC=C1)Cl)NC1=C(N=C2N1C=CC=N2)C2=C(C(=O)NN)C=C(C=C2OC)OC | C21H18Cl2N6O3
